US06949573B2
2-Hydroxybenzaldehyde (5.14 g, 42.1 mmol) was added to a suspension of tert-butyl-dimethyl-silyl chloride (6.7 g, 44.4 mmol) and imidazole (3.03 g, 44.5 mmol) in dichloromethane (100 ml) under an atmosphere of nitrogen at room temperature. The reaction mixture was stirred at room temperature for 18 hours, and then washed sequentially with 1 M hydrochloric acid (2-fold 50 ml) followed by a saturated aqueous solution of sodium hydrogen carbonate (50 ml). The organic phase was separated, dried over anhydrous magnesium sulphate and the solvent removed in vacuo. The residual yellow oil was passed through a plug of silica gel eluting with 1:1, by volume, dichloromethane:pentane giving 2-(tert-butyl-dimethyl-silanyloxy)-benzaldehyde (8.6 g) as a golden yellow oil.

reactant | 2-Hydroxybenzaldehyde | 42.1 mmol, 5.14 g | OC1=C(C=O)C=CC=C1 | C7H6O2
reactant | tert-butyl-dimethyl-silyl chloride | 44.4 mmol, 6.7 g | C(C)(C)(C)[Si](C)(C)Cl | C6H15ClSi
reactant | imidazole | 44.5 mmol, 3.03 g | N1C=NC=C1 | C3H4N2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 2-(tert-butyl-dimethyl-silanyloxy)-benzaldehyde | 8.6 g | C(C)(C)(C)[Si](OC1=C(C=O)C=CC=C1)(C)C | C13H20O2Si
